US08633173B2
N(8)-(2-Methanesulfonyl-benzyl)-N(2)-[4-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-benzyl)-amine (75.0 mg, 0.223 mmol) and 4-(4-methyl-piperazin-1-yl)-phenylamine (47.0 mg, 0.246 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.035 g, 32%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.11 (d, J=7.9 Hz, 1H), 7.84 (d, J=6.5 Hz, 1H), 7.67-7.59 (m, 2H), 7.55-7.50 (m, 1H), 7.47 (d, J=8.8 Hz, 2H), 6.96 (d, J=8.9 Hz, 2H), 6.68 (t, J=7.3 Hz, 1H), 6.55 (s, 1H), 6.41 (d, J=7.7 Hz, 1H), 5.19 9t, J=6.1 Hz, 1H), 4.96 (d, J=6.1 Hz, 2H), 3.20-3.14 (m, 7H), 2.69-2.58 (m, 4H), 2.39 (s, 3H). MS=492 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-benzyl)-amine | 0.223 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NCC2=C(C=CC=C2)S(=O)(=O)C)=N1 | C14H13ClN4O2S
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.246 mmol, 47.0 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N(8)-(2-Methanesulfonyl-benzyl)-N(2)-[4-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | CS(=O)(=O)C1=C(CNC=2C=3N(C=CC2)N=C(N3)NC3=CC=C(C=C3)N3CCN(CC3)C)C=CC=C1 | C25H29N7O2S
